US06004724
9.5 g of KOH are dissolved in 50 ml of methanol. To the solution are added 5 g (41 mmol) of thiophene-2-acetonitrile followed by 4.2 ml (41 mmol) of nitrobenzene. After the reaction mixture is stirred at room temperature for 2 hrs, 200 ml of water are added with stirring. The resulting solution is acidified by addition of 30 ml of acetic acid in 25 ml of water, leading to a dark orange precipitate. The mixture is then filtered, and the solid is washed with a mixture of methanol and water, and methanol. The crude product is dried in air and recrystallized from toluene. 4.7 g (50%) of (4-Hydroxyimino-cyclohexa-2,5-dienylidene)-thiophen-2-yl-acetonitrile are obtained in the form of a dark orange powder having a melting point of 151-155° C. (dec.).

reactant | KOH | 9.5 g | [OH-].[K+]
reactant | thiophene-2-acetonitrile | 41 mmol, 5 g | S1C(=CC=C1)CC#N | C6H5NS
reactant | nitrobenzene | 41 mmol, 4.2 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 25 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | (4-Hydroxyimino-cyclohexa-2,5-dienylidene)-thiophen-2-yl-acetonitrile | 4.7 g, 50% | ON=C1C=CC(C=C1)=C(C#N)C=1SC=CC1 | C12H8N2OS
